### PR TITLE
[Merged by Bors] - feat(Algebra/(Skew)Polynomial/Basic): add more API

### PR DESCRIPTION
**Pull request by mariainesdff**
We add API for SkewPolynomial, including the definitions erase and update and results about coefficients and supports.

Many of the improvements suggested by the reviewer also made sense for Polynomial.Basic, and in order to keep the Polynomial and SkewPolynomial APIs consistent, we implemented the suggested changes on both files as appropriate.

Co-authored by: @xgenereux.

---

- [ ] depends on: #38619 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 1]
```diff
@@ -49,6 +49,10 @@ Furthermore, with this notation `φ^[n](a) = (ofAdd n) • a`, see `φ_iterate_a
 * `p.sum f` is `∑ n ∈ p.support, f n (p.coeff n)`, i.e., one sums the values of functions applied
   to coefficients of the polynomial `p`.
 * `SkewPolynomial.coeff p n` is the coefficient of `X ^ n` in `p`.
+* `SkewPolynomial.erase p n` is the skew polynomial `p` in which one removes the `c X ^ n` term.
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
* `SkewPolynomial.erase p n` is the skew polynomial `p` in which one removes the monomial in degree `n`.
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 2]
```diff
@@ -72,9 +76,6 @@ The definition is inspired by Chapter 3 of [Papikian2023].
 
 Skew Polynomials, Twisted Polynomials.
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean:79]: Where has the algebra instance been defined?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 3]
```diff
@@ -170,7 +172,7 @@ def monomial : R →ₗ[R] SkewPolynomial R := lsingle R (ofAdd n)
 
 lemma monomial_zero_right : monomial n (0 : R) = 0 := single_zero _
 
-lemma monomial_zero_one [MulSemiringAction (Multiplicative ℕ) R] : monomial (0 : ℕ) 1 = 1 :=
+lemma monomial_zero_one [MulSemiringAction (Multiplicative ℕ) R] : monomial (0 : ℕ) (1 : R) = 1 :=
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
lemma monomial_zero_one [MulSemiringAction (Multiplicative ℕ) R] : monomial 0 (1 : R) = 1 :=
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 4]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
 lemma eq_zero_of_eq_zero (h : (0 : R) = (1 : R)) (p : SkewPolynomial R) : p = 0 := by
   rw [← one_smul R p, ← h, zero_smul]
 
+section Support
+
+lemma support_monomial (n) {a : R} (H : a ≠ 0) : (monomial n a).support = singleton n := by
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
lemma support_monomial (n) {a : R} (h : a ≠ 0) : (monomial n a).support = singleton n := by
```
Just for uniformity with all the other similar assumptions below. But don't you want this (and the same for `C` below) to be a `simp` lemma?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 5]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+  ext m
+  simp [monomial_def, support_eq_skewMonoidAlgebra_support, H]
+
+lemma support_monomial' (n) {a : R} : (monomial n a).support ⊆ singleton n := by
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
lemma support_monomial_subset (n) {a : R} : (monomial n a).support ⊆ singleton n := by
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 6]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+
+lemma support_C {a : R} (h : a ≠ 0) : (C a).support = singleton 0 := support_monomial 0 h
+
+lemma support_C_subset (a : R) : (C a).support ⊆ singleton 0 := support_monomial' 0
+
+lemma support_C_mul_X [MulSemiringAction (Multiplicative ℕ) R] {c : R} (h : c ≠ 0) :
+    support (C c * X) = singleton 1 := by
+  rw [C_mul_X_eq_monomial, support_monomial 1 h]
+
+lemma support_C_mul_X' [MulSemiringAction (Multiplicative ℕ) R] (c : R) :
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
lemma support_C_mul_X_subset [MulSemiringAction (Multiplicative ℕ) R] (c : R) :
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 7]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+lemma support_C_mul_X_pow [MulSemiringAction (Multiplicative ℕ) R] (n : ℕ) {c : R} (h : c ≠ 0) :
+    support (C c * X ^ n) = singleton n := by
+  rw [C_mul_X_pow_eq_monomial, support_monomial n h]
+
+lemma support_C_mul_X_pow' [MulSemiringAction (Multiplicative ℕ) R] (n : ℕ) (c : R) :
+    support (C c * X ^ n) ⊆ singleton n := by
+  simpa [C_mul_X_pow_eq_monomial] using support_monomial' n
+
+open Finset
+lemma support_binomial' [MulSemiringAction (Multiplicative ℕ) R] (k m : ℕ) (x y : R) :
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
lemma support_binomial_subset [MulSemiringAction (Multiplicative ℕ) R] (k m : ℕ) (x y : R) :
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 8]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+    support (C x * X ^ k + C y * X ^ m) ⊆ {k, m} :=
+  support_add.trans
+    (union_subset
+      ((support_C_mul_X_pow' k x).trans (singleton_subset_iff.mpr (mem_insert_self k {m})))
+      ((support_C_mul_X_pow' m y).trans
+        (singleton_subset_iff.mpr (mem_insert_of_mem (mem_singleton_self m)))))
+
+lemma support_trinomial' [MulSemiringAction (Multiplicative ℕ) R] (k m n : ℕ) (x y z : R) :
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
lemma support_trinomial_subset [MulSemiringAction (Multiplicative ℕ) R] (k m n : ℕ) (x y z : R) :
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 9]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+  | zero      => simp only [pow_zero, monomial_zero_left, ← CRingHom_eq_C, map_one]
+  | succ n hn =>
+    rw [pow_succ', hn, X, monomial_mul_monomial]
+    simp [add_comm]
+
+lemma smul_X_eq_monomial {n} [MulSemiringAction (Multiplicative ℕ) R] :
+    a • X ^ n = monomial n (a : R) := by
+  rw [eq_comm]
+  calc monomial n a = monomial n (a * 1) := by simp only [mul_one]
+    _ = monomial n (a • 1) := by simp_all only [mul_one, smul_eq_mul]
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
    _ = monomial n (a • 1) := by simp only [mul_one, smul_eq_mul]
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 10]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+    _ = a • monomial n 1 := (SkewMonoidAlgebra.smul_single _ _ _).symm
+    _ = a • X ^ n  := by rw [X_pow_eq_monomial]
+
+lemma support_X_pow (H : ¬ (1 : R) = 0) (n : ℕ) [MulSemiringAction (Multiplicative ℕ) R] :
+    (X ^ n : SkewPolynomial R).support = singleton n := by
+  convert support_monomial n H
+  exact X_pow_eq_monomial n
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: I wonder if replacing the assumption `H` with `Nontrivial R` wouldn't be more ergonomic, here and it what follows. The proof becomes one line longer unless I miss some golfing:
```
lemma support_X_pow [Nontrivial R] (n : ℕ) [MulSemiringAction (Multiplicative ℕ) R] :
    (X ^ n : SkewPolynomial R).support = singleton n := by
  convert support_monomial n NeZero.out 
  · exact X_pow_eq_monomial n
  infer_instance
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 11]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+  rw [← pow_one X, support_X_pow H 1]
+
+lemma monomial_left_inj {R : Type*} [Semiring R] {a : R} (ha : a ≠ 0) {i j : ℕ} :
+    (monomial i a) = (monomial j a) ↔ i = j :=
+  SkewMonoidAlgebra.single_left_inj ha
+
+lemma nat_cast_mul {R : Type*} [Semiring R] (n : ℕ) (p : SkewPolynomial R)
+    [MulSemiringAction (Multiplicative ℕ) R] : (n : SkewPolynomial R) * p = n • p :=
+  (nsmul_eq_mul _ _).symm
+section sum
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
section Sum
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 12]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+lemma sum_eq_of_subset {S : Type*} [AddCommMonoid S] {p : SkewPolynomial R} (f : ℕ → R → S)
+    (hf : ∀ i, f i 0 = 0) {s : Finset ℕ} (hs : p.support ⊆ s) :
+    p.sum f = ∑ n ∈ s, f n (p.coeff n) := by
+  rw [sum_def , Finset.sum_subset hs]
+  intro _ _ hx
+  simp only [mem_support_iff, ne_eq, not_not] at hx
+  simp [hx, hf]
+
+@[simp]
+lemma sum_zero_index {S : Type*} [AddCommMonoid S] (f : ℕ → R → S) :
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: can you remind me what this "index" means?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 13]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+lemma monomial_left_inj {R : Type*} [Semiring R] {a : R} (ha : a ≠ 0) {i j : ℕ} :
+    (monomial i a) = (monomial j a) ↔ i = j :=
+  SkewMonoidAlgebra.single_left_inj ha
+
+lemma nat_cast_mul {R : Type*} [Semiring R] (n : ℕ) (p : SkewPolynomial R)
+    [MulSemiringAction (Multiplicative ℕ) R] : (n : SkewPolynomial R) * p = n • p :=
+  (nsmul_eq_mul _ _).symm
+section sum
+
+lemma sum_eq_of_subset {S : Type*} [AddCommMonoid S] {p : SkewPolynomial R} (f : ℕ → R → S)
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: I think you need the assumption `AddCommMonoid S` globally in this section, you might factor it out as a variable.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 14]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+    (X : SkewPolynomial R).sum f = f 1 1 :=
+  sum_monomial_index hf
+
+lemma sum_add_index {S : Type*} [AddCommMonoid S] (p q : SkewPolynomial R) (f : ℕ → R → S)
+    (hf : ∀ i, f i 0 = 0) (h_add : ∀ a b₁ b₂, f a (b₁ + b₂) = f a b₁ + f a b₂) :
+    (p + q).sum f = p.sum f + q.sum f := by
+  simp only [sum_def']
+  exact SkewMonoidAlgebra.sum_add_index (fun n _ ↦ hf (toAdd n)) (fun n _ ↦ h_add (toAdd n))
+
+lemma sum_add' {S : Type*} [AddCommMonoid S] (p : SkewPolynomial R) (f g : ℕ → R → S) :
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: What's the rationale beneath this being not the preferred version, and the one without ' being better? Perhaps a word of explanation in the doc might help.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 15]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+    p.sum (f + g) = p.sum f + p.sum g := by simp [sum_def, Finset.sum_add_distrib]
+
+lemma sum_add {S : Type*} [AddCommMonoid S] (p : SkewPolynomial R) (f g : ℕ → R → S) :
+    (p.sum fun n x => f n x + g n x) = p.sum f + p.sum g :=
+  sum_add' _ _ _
+
+lemma sum_smul_index {S : Type*} [AddCommMonoid S] (p : SkewPolynomial R) (b : R) (f : ℕ → R → S)
+    (hf : ∀ i, f i 0 = 0) : (b • p).sum f = p.sum fun n a => f n (b * a) :=
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
    (hf : ∀ i, f i 0 = 0) : (b • p).sum f = p.sum fun n a ↦ f n (b * a) :=
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 16]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+    (hf : ∀ i, f i 0 = 0) (h_add : ∀ a b₁ b₂, f a (b₁ + b₂) = f a b₁ + f a b₂) :
+    (p + q).sum f = p.sum f + q.sum f := by
+  simp only [sum_def']
+  exact SkewMonoidAlgebra.sum_add_index (fun n _ ↦ hf (toAdd n)) (fun n _ ↦ h_add (toAdd n))
+
+lemma sum_add' {S : Type*} [AddCommMonoid S] (p : SkewPolynomial R) (f g : ℕ → R → S) :
+    p.sum (f + g) = p.sum f + p.sum g := by simp [sum_def, Finset.sum_add_distrib]
+
+lemma sum_add {S : Type*} [AddCommMonoid S] (p : SkewPolynomial R) (f g : ℕ → R → S) :
+    (p.sum fun n x => f n x + g n x) = p.sum f + p.sum g :=
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
    (p.sum fun n x ↦ f n x + g n x) = p.sum f + p.sum g :=
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 17]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+  sum_add' _ _ _
+
+lemma sum_smul_index {S : Type*} [AddCommMonoid S] (p : SkewPolynomial R) (b : R) (f : ℕ → R → S)
+    (hf : ∀ i, f i 0 = 0) : (b • p).sum f = p.sum fun n a => f n (b * a) :=
+  Finsupp.sum_smul_index hf
+
+lemma sum_smul_index' {S T : Type*} [DistribSMul T R] [AddCommMonoid S] (p : SkewPolynomial R)
+    (b : T) (f : ℕ → R → S) (hf : ∀ i, f i 0 = 0) : (b • p).sum f = p.sum fun n a => f n (b • a) :=
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
    (b : T) (f : ℕ → R → S) (hf : ∀ i, f i 0 = 0) : (b • p).sum f = p.sum fun n a ↦ f n (b • a) :=
```
Again, can you explain the primed/unprimed versions?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 18]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+  Finsupp.sum_smul_index' hf
+
+protected lemma smul_sum {S T : Type*} [AddCommMonoid S] [DistribSMul T S] (p : SkewPolynomial R)
+    (b : T) (f : ℕ → R → S) : b • p.sum f = p.sum fun n a => b • f n a :=
+  Finsupp.smul_sum
+
+end sum
+
+lemma induction {motive : SkewPolynomial R → Prop} (p : SkewPolynomial R) (h0 : motive 0)
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: Why does this lemma arrive here? Is it your natural home?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 19]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+  (ha : ∀ (n : ℕ) (r : R) (q : SkewPolynomial R), n ∉ q.support → r ≠ 0 → motive q →
+    motive (SkewPolynomial.monomial n r + q)) : motive p := by
+  apply SkewMonoidAlgebra.induction <;> aesop
+
+@[simp]
+lemma coeff_add (p q : SkewPolynomial R) (n : ℕ) : coeff (p + q) n = coeff p n + coeff q n := by
+  simp only [coeff]
+  exact SkewMonoidAlgebra.coeff_add p q n
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
lemma coeff_add (p q : SkewPolynomial R) (n : ℕ) : coeff (p + q) n = coeff p n + coeff q n := 
  SkewMonoidAlgebra.coeff_add p q n
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 20]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+
 end Semiring
 
+section Ring
+
+variable [Ring R] {a b : R}
+
+lemma sum_neg {S : Type*} [Ring S] (p : SkewPolynomial R) (f : ℕ → R → S) :
+    (p.sum fun n x => - f n x) = - p.sum f := by
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
    (p.sum fun n x ↦ - f n x) = - p.sum f := by
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 21]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+  simp [sum_def, Finset.sum_neg_distrib]
+
+lemma sum_sub {S : Type*} [Ring S] (p : SkewPolynomial R) (f g : ℕ → R → S) :
+    (p.sum fun n x => f n x - g n x) = p.sum f - p.sum g := by
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
    (p.sum fun n x ↦ f n x - g n x) = p.sum f - p.sum g := by
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 22]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
 
+section Ring
+
+variable [Ring R] {a b : R}
+
+lemma sum_neg {S : Type*} [Ring S] (p : SkewPolynomial R) (f : ℕ → R → S) :
+    (p.sum fun n x => - f n x) = - p.sum f := by
+  simp [sum_def, Finset.sum_neg_distrib]
+
+lemma sum_sub {S : Type*} [Ring S] (p : SkewPolynomial R) (f g : ℕ → R → S) :
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: None of this are simp-lemma: why?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 23]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+
+@[simp] lemma support_neg {p : SkewPolynomial R} : (-p).support = p.support := by
+  simpa [support_eq_skewMonoidAlgebra_support] using SkewMonoidAlgebra.support_neg p
+
+lemma monomial_sub (n : ℕ) : monomial n (a - b) = monomial n a - monomial n b := by
+  rw [sub_eq_add_neg, monomial_add, monomial_neg, sub_eq_add_neg]
+
+variable [MulSemiringAction (Multiplicative ℕ) R]
+
+lemma C_eq_intCast (n : ℤ) : C (n : R) = n := by simp [← CRingHom_eq_C]
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean:629]: These three lemmas below seem at the wrong place.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 24]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+section erase
+
+variable [Semiring R]
+
+/-- `erase p n` is the polynomial `p` in which the `X ^ n` term has been erased. -/
+def erase (n : ℕ) (p : SkewPolynomial R) : SkewPolynomial R :=
+  SkewMonoidAlgebra.erase (ofAdd n) p
+
+@[simp]
+lemma support_erase (p : SkewPolynomial R) (n : ℕ) :
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: I think `p` can be implicit here.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 25]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+    support (p.erase n) = (support p).erase n := by
+  simp [support_eq_skewMonoidAlgebra_support, erase]
+
+lemma monomial_add_erase (p : SkewPolynomial R) (n : ℕ) :
+    monomial n (coeff p n) + p.erase n = p := by
+  simp only [coeff, monomial_def, erase]
+  rw [SkewMonoidAlgebra.single_add_erase]
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
  simp only [coeff, monomial_def, erase, SkewMonoidAlgebra.single_add_erase]
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 26]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+@[simp]
+lemma erase_monomial {n : ℕ} {a : R} : erase n (monomial n a) = 0 := by
+  simp [erase, monomial_def, zero_def]
+
+@[simp]
+lemma erase_same (p : SkewPolynomial R) (n : ℕ) : coeff (p.erase n) n = 0 := by
+    simp [coeff_erase]
+
+@[simp]
+lemma erase_ne (p : SkewPolynomial R) (n i : ℕ) (h : i ≠ n) :
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: Do you need `n` and `i` explicit?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 27]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+
+lemma coeff_update_apply (p : SkewPolynomial R) (n : ℕ) (a : R) (i : ℕ) :
+    (p.update n a).coeff i = if i = n then a else p.coeff i :=
+  SkewMonoidAlgebra.coeff_update_apply _ _ _ _
+
+@[simp]
+lemma coeff_update_same (p : SkewPolynomial R) (n : ℕ) (a : R) : (p.update n a).coeff n = a := by
+  rw [p.coeff_update_apply, if_pos rfl]
+
+lemma coeff_update_ne (p : SkewPolynomial R) {n : ℕ} (a : R) {i : ℕ} (h : i ≠ n) :
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
lemma coeff_update_ne (p : SkewPolynomial R) {n i : ℕ} (a : R) (h : i ≠ n) :
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 28]
```diff
@@ -432,6 +434,298 @@ lemma ext_iff {p q : SkewPolynomial R} : p = q ↔ ∀ n, coeff p n = coeff q n
...
+lemma update_zero_eq_erase (p : SkewPolynomial R) (n : ℕ) : p.update n 0 = p.erase n := by
+  ext
+  rw [coeff_update_apply, coeff_erase]
+
+lemma support_update (p : SkewPolynomial R) (n : ℕ) (a : R) [DecidableEq R] :
+    support (p.update n a) = if a = 0 then p.support.erase n else insert n p.support := by
+  simp only [update_def, support_eq_skewMonoidAlgebra_support, SkewMonoidAlgebra.support_update]
+  split_ifs with ha
+  · simp
+  · simp
```
Comment (faenuccio) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
  split_ifs with ha <;> simp
```

**Review by faenuccio — COMMENTED** [review]
Thanks, I've left a bunch of comments but nothing substantial on your implementation.

**Review by faenuccio — COMMENTED** [review]
awaiting-author

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 12 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: This is in analogy with [Polynomial.sum_zero_index](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Basic.html#Polynomial.sum_zero_index). I'm not sure why that name was chosen there.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 23 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:629]: Where would you put them? They need `Ring R` and the `MulSemiringAction` hypothesis (and the analogous lemmas are in the same place in `Polynomial.Basic`).

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 2 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:79]: Now that `SkewPolynomial` is an abbrev for `SkewMonoidAlgebra R (Multiplicative ℕ)`, this is automatically inferred from  [SkewMonoidAlgebra.instAlgebraOfSMulCommClass](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/SkewMonoidAlgebra/Basic.html#SkewMonoidAlgebra.instAlgebraOfSMulCommClass), which is why it is not explicitly included in this file.

I.e., the following works:
```

variable [CommSemiring R] {A : Type*} [Semiring A] [Algebra R A]

instance [MulSemiringAction (Multiplicative ℕ) R] [MulSemiringAction (Multiplicative ℕ) A]
    [SMulCommClass (Multiplicative ℕ) R A] : Algebra R (SkewPolynomial A) :=
  inferInstance


```

Comment (faenuccio) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:79]: Oh perfect! Sorry for the noise.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 4 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: I marked them as `simp`, as well as a few others of the same kind (`support_C_mul_X_pow`, `support_X`, etc).

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 18 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: This is an application of [SkewMonoidAlgebra.induction](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/SkewMonoidAlgebra/Single.html#SkewMonoidAlgebra.induction), which is  in `Mathlib.Algebra.SkewMonoidAlgebra.Single`, the file where `SkewMonoidAlgebra.erase` is introduced. However, to stay compatible with the `Polynomial` API, we do not have a file `SkewPolynomial.Single` and instead introduce `SkewPolynomial.erase` here, so I think this is the natural file to include this induction lemma.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 22 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: I've marked `sum_neg` and `sum_sub` as simp lemmas.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 14 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: We were following what's done in `Polynomial.Basic`, but I'm not sure there is a reason to prefer `sum_add`; I'll try to experiment a bit.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 17 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: We were again following `Polynomial.Basic`, but in this case I think it makes sense for `sum_smul_index` to be the preferred version because of `smul_eq_mul` being a simp lemma.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 14 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: It looks like `sum_add` is preferred for compatibility with [Finsupp.sum_add](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/BigOperators/Finsupp/Basic.html#Finsupp.sum_add). On the other hand, for polynomials the current `sum_add'` seems more natural to me.
I don't have strong feelings about this, so I could rename them if you prefer. Otherwise I will just add a docstring referring to the other version.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 10 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: I replaced `H` by `Nontrivial R`.

**Comment by mariainesdff** [comment]
Thanks for the review! Since many of the comments also made sense for `Polynomial.Basic`, and in order to keep the `Polynomial` and `SkewPolynomial` APIs consistent, I implemented the suggested changes on both files as appropriate.

File: Mathlib/Algebra/Polynomial/Basic.lean [hunk 29]
```diff
@@ -880,26 +898,28 @@ theorem sum_add' {S : Type*} [AddCommMonoid S] (p : R[X]) (f g : ℕ → R → S
     p.sum (f + g) = p.sum f + p.sum g := by simp [sum_def, Finset.sum_add_distrib]
 
 theorem sum_add {S : Type*} [AddCommMonoid S] (p : R[X]) (f g : ℕ → R → S) :
-    (p.sum fun n x => f n x + g n x) = p.sum f + p.sum g :=
+    (p.sum fun n x ↦ f n x + g n x) = p.sum f + p.sum g :=
   sum_add' _ _ _
 
+/-- See also `SkewPolynomial.sum_smul_index'` for a version using `smul` on the RHS. -/
```
Comment (faenuccio) [inline Mathlib/Algebra/Polynomial/Basic.lean]: Do you mean `Polynomial` or `SkewPolynomial` here?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 23 above)
Comment (faenuccio) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:629]: Oh yes, this was stupid on my side, sorry for the noise.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 18 above)
Comment (faenuccio) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: Perfect for the file! But I'd rather move it up to the end of the section `Monomial`.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 4 above)
Comment (faenuccio) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: Thanks!

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 14 above)
Comment (faenuccio) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: I'd leave them as they are with a line in the doc.

**Review by faenuccio — COMMENTED** [review]
Thanks for all the improvements and the work on Polynomial. I've left some other very minor comments along the code; can you also update the PR description (and the title, perhaps) mentioning that files in `Polynomial` have also been touched (as you did in a comment)?

**Comment by faenuccio** [comment]
bors d+

File: Mathlib/Algebra/Polynomial/Basic.lean (hunk 29 above)
Comment (mariainesdff) [reply Mathlib/Algebra/Polynomial/Basic.lean]: Oops, fixed!

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 14 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: I've also marked them as `simp`, as suggested for `sum_neg` and `sum_sub`.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 18 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: Done!
